US07396958B2
(2-nitro-5-chlorophenyl)(2,5-difluorophenyl)methanol
To 15 g of 2,5-difluorobenzene dissolved in 150 ml of tetrahydrofuran are added, at −70° C., 50 ml of 1.6M butyllithium solution. After 2 hours at −70° C., 9.616 g of 2-nitro-5-chlorobenzaldehyde are introduced and the mixture is left at this temperature for 3 hours and then at room temperature for 18 hours. The medium is hydrolysed with ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is filtered through silica, eluting with dichloromethane, to give 8.89 g of the expected product.

reactant | 2,5-difluorobenzene | 15 g | FC1=CC=C(C=C1)F | C6H4F2
reactant | butyllithium | 1.6M, 50 ml | C(CCC)[Li]
reactant | 2-nitro-5-chlorobenzaldehyde | 9.616 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)Cl | C7H4ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (2-nitro-5-chlorophenyl)(2,5-difluorophenyl)methanol | 8.89 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)C(O)C1=C(C=CC(=C1)F)F | C13H8ClF2NO3
